US07674789B2
3-[8-(2,6-difluorophenyl)-2-(4-methyl-1-piperazinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (17 mg, 0.034 mmol) in DCM (2 mL) was added 1-methylpiperazine (0.011 mL, 0.10 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (11 mg, 60%). LC-MS m/z 536 (M+H)+; 1H-NMR (MeOD) δ 1.00 (t, 3H), 1.66 (m, 2 H), 2.28 (s, 3H), 2.31 (s, 3H), 2.42 (m, 4H), 3.37 (m, 2H), 3.57 (m, 4H), 4.13 (m, 2H), 7.16 (m, 2H), 7.46 (m, 1H), 7.51 (m, 1H), 7.68 (s, 1H), 7.86 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.034 mmol, 17 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | 1-methylpiperazine | 0.10 mmol, 0.011 mL | CN1CCNCC1 | C5H12N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[8-(2,6-difluorophenyl)-2-(4-methyl-1-piperazinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 11 mg, 60% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)N2CCN(CC2)C)=O | C28H31F2N7O2
